US04684640
4-Nitrobenzyl 2-(4-allylthioazetidin-2-on-1-yl)acetate
11.5 g of 4-nitrobenzylbromoacetate in 30 ml of dimethylformamide was added to 5.0 g of 4-allylthioazetidin-2-one dissolved in 70 ml of dimethylformamide with stirring under argon at room temperature. After 5 mins, 10.61 g of potassium carbonate was added to the solution. During the following 20 mins there was a colour change in the mixture from yellow to dark brown. Stirring was continued for a further 3 hours 40 mins. The mixture was then poured into water (300 ml), extracted into ethyl acetate (4×100 ml) and the combined organic extracts washed with water (3×200 ml). The organic layer was dried with MgSO4 and evaporated to leave a yellow oil.

reactant | 4-nitrobenzylbromoacetate | 11.5 g | [N+](=O)([O-])C1=CC=C(CC(C(=O)[O-])Br)C=C1
reactant | 4-allylthioazetidin-2-one | 5.0 g | C(C=C)SC1CC(N1)=O | C6H9NOS
reactant | potassium carbonate | 10.61 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 4-Nitrobenzyl 2-(4-allylthioazetidin-2-on-1-yl)acetate | C(C=C)SC1CC(N1CC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C15H16N2O5S
